US08252935B2
a) 4-Methyl-2-{4′-trifluoromethyl-5-[1-(4-trifluoromethyl-benzoyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester
To a solution of compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester) (51 mg, 0.11 mmol) in CH3CN (5 ml) was added 4-(Trifluoromethyl)benzoyl chloride (35.6 mg, 0.17 mmol) and diisopropylethylamine (40 μl, 0.23 mmol). The reaction was microwaved at 130° C. for 10 minutes, was diluted with EtOAc and washed with brine, sat. NaHCO3, and brine, dried and filtered. Purification by silica gel chromatography (Isco) gave the desired product, (62 mg, 87%). Calcd for C34H35F6NO3 (M+H) 619.64, Found 620.4.

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | 4-(Trifluoromethyl)benzoyl chloride | 0.17 mmol, 35.6 mg | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | diisopropylethylamine | 0.23 mmol, 40 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 5 ml | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Methyl-2-{4′-trifluoromethyl-5-[1-(4-trifluoromethyl-benzoyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester | 62 mg, 87% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)C(C1=CC=C(C=C1)C(F)(F)F)=O)C1=CC=C(C=C1)C(F)(F)F)=O | C34H35F6NO3
